US08003843B2
A 100 ml-four-necked flask equipped with a thermometer, a reflux condenser, and a stirrer was charged with 8.61 g (102) mmol 2-methyl-3-butin-2-ol (MBI) and 30.14 g (102 mmol) 3,7,11,15-tetramethyl-1-hexadecin-3-ol (DIP) stirred with 750 rpm and heated up to reflux temperature. After 5 min an internal temperature of 95° C. was reached, and 2 ml KOH (41.42% in H2O, 20.53 mmol) were added. The reaction was controlled by GC (samples were taken after 60 min, 155 min and 385 min). The ketones were separated by distillation. Yield acetone 5.8 g, (97.5%), yield 6,10,14-trimethyl-2-pentadecanon (C18—K) 26.1 g, (96.1%), not optimized.

reactant | 2-methyl-3-butin-2-ol | 8.61 g | CC(C)(C#C)O | C5H8O
reactant | 3,7,11,15-tetramethyl-1-hexadecin-3-ol | 102 mmol, 30.14 g | CC(C#C)(CCCC(CCCC(CCCC(C)C)C)C)O | C20H38O
reactant | KOH | 20.53 mmol, 2 ml | [OH-].[K+]
product | 6,10,14-trimethyl-2-pentadecanon | 26.1 g, 96.1% | CC(CCCC(C)=O)CCCC(CCCC(C)C)C | C18H36O
